US09168247B2
Synthesis of Compound CV11 (See Table 1): 1-methyl-7-(4-fluorobenzyloxy)-9-(4-fluorobenzyl)-β-carboline
The title compound was synthesized from 1-methyl-7-hydroxy-β-carboline (0.5 g, 1.587 mmol) in presence of 1-bromomethyl-4-fluorobenzene (0.6 g, 3.173 mmol) as described here above.

reactant | 1-methyl-7-hydroxy-β-carboline | 1.587 mmol, 0.5 g | CC1=NC=CC=2C3=CC=C(C=C3NC12)O | C12H10N2O
reactant | 1-bromomethyl-4-fluorobenzene | 3.173 mmol, 0.6 g | BrCC1=CC=C(C=C1)F | C7H6BrF
product | 1-methyl-7-(4-fluorobenzyloxy)-9-(4-fluorobenzyl)-β-carboline | Yield=62% | CC1=NC=CC=2C3=CC=C(C=C3N(C12)CC1=CC=C(C=C1)F)OCC1=CC=C(C=C1)F | C26H20F2N2O
